US08119805B2
Stage (ii): 8-(Pyridin-4-yl)-2,8-diazaspiro[4.5]decane dihydrochloride
tert-Butyl 8-(pyridin-4-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate (5.671 mmol, 1 eq) was dissolved in analytical grade ethanol (20 ml) and acetyl chloride (28.355 mmol, 3 eq.) was then added at 0° C. The mixture was stirred at 25° C. for 16 h. Thereafter, the solvent was concentrated in vacuo and the residue was dried under a high vacuum to obtain the desired product. Yield: 1.48 g (90%)

reactant | tert-Butyl 8-(pyridin-4-yl)-2,8-diazaspiro[4.5]decane-2-carboxylate | 5.671 mmol, 1 eq | N1=CC=C(C=C1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C18H27N3O2
reactant | acetyl chloride | 28.355 mmol, 3 eq. | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-(Pyridin-4-yl)-2,8-diazaspiro[4.5]decane dihydrochloride | Cl.Cl.N1=CC=C(C=C1)N1CCC2(CCNC2)CC1 | InChI=1S/C13H19N3.2ClH/c1-6-14-7-2-12(1)16-9-4-13(5-10-16)3-8-15-11-13;;/h1-2,6-7,15H,3-5,8-11H2;2*1H
